US09337430B2
5-(4-Bromophenyl)-5H-phenanthridin-6-one
6.0 g (22 2 mmol) of 5-phenyl-5H-phenanthridin-6-one are initially introduced in 150 ml of CH2Cl2. A solution of 4 g (22 5 mmol) of NBS in 100 ml of acetonitrile is subsequently added dropwise at −15° C. with exclusion of light, the mixture is allowed to come to room temperature and is stirred at this temperature for a further 4 h. 150 ml of water are subsequently added to the mixture, which is then extracted with CH2Cl2. The organic phase is dried over MgSO4, and the solvents are removed in vacuo. The product is washed by stirring with hot hexane and filtered off with suction. Yield: 7.4 g (21 mmol), 80% of theory, purity according to 1H-NMR about 96%.

reactant | 5-phenyl-5H-phenanthridin-6-one | 2 mmol, 6.0 g | C1(=CC=CC=C1)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C19H13NO
reactant | NBS | 5 mmol, 4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 150 ml | O | H2O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(4-Bromophenyl)-5H-phenanthridin-6-one | BrC1=CC=C(C=C1)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C19H12BrNO
